US04603101
The procedure of Example 1 was repeated, except that there was utilized 16.9 grams (0.70 mole) of magnesium metal and 100 grams (0.66 mole) of 4-chloro-α-methylstyrene dissolved in 200 ml. of tetrahydrofuran. The Grignard reaction was started by the addition of a small amount of methyl iodide. After the reaction mixture had been refluxed for 12 hours, there was added at 0° C. in a dropwise manner a solution of 85 grams of t-butylperbenzoate in 300 ml. of ethylether. A crystalline product identified as 4,4'-diisopropenylbiphenyl was isolated from the oil which was recovered by filtering the mixture and washing with methanol. After stripping the methanol, a 69.3% yield of 4-t-butoxy-α-methylstyrene was isolated by fractional distillation as a colorless liquid having a boiling point of 65°-68° C. at 0.03 millimeters.

reactant | magnesium | 0.70 mole, 16.9 grams | [Mg] | Mg
reactant | 4-chloro-α-methylstyrene | 0.66 mole, 100 grams | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
reactant | methyl iodide | CI | CH3I
reactant | t-butylperbenzoate | 85 grams | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
reactant | 4,4'-diisopropenylbiphenyl | C(=C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=C)C | C18H18
solvent | ethylether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-t-butoxy-α-methylstyrene | 69.3% yield | C(C)(C)(C)OC1=CC=C(C(=C)C)C=C1 | C13H18O
